US06933311B2
N-(3-chlorobenzyl)-N′-(3-methyl-5-isoquinolinyl)urea
3-chlorobenzylamine (141 mg, 1.0 mmol) in ether (20 mL) was treated with an ethereal solution of 5-isocyanato-3-methylisoquinoline. The precipitate that formed was collected by filtration, washed with diethyl ether, and air-dried to provide the title compound. 1H NMR (300 MHz, DMSO-d6) δ 9.18 (s, 1H), 8.69 (s, 1H), 8.20 (d, 1H, J=7.8 Hz), 7.75 (s, 1H), 7.70 (d, 1H, J=8.2 Hz), 7.51 (t, 1H, J=7.8 Hz), 7.31-7.43 (m, 4H), 7.10 (m, 1H), 4.38 (d, 2H, J=5.7 Hz), 2.65 (s, 3H); MS (ESI+) m/z 326/328 (M+H, 35Cl/37Cl).

reactant | 3-chlorobenzylamine | 1.0 mmol, 141 mg | ClC=1C=C(CN)C=CC1 | C7H8ClN
reactant | 5-isocyanato-3-methylisoquinoline | N(=C=O)C1=C2C=C(N=CC2=CC=C1)C | C11H8N2O
solvent | ether | 20 mL | CCOCC | C4H10O
product | N-(3-chlorobenzyl)-N′-(3-methyl-5-isoquinolinyl)urea | ClC=1C=C(CNC(=O)NC2=C3C=C(N=CC3=CC=C2)C)C=CC1 | C18H16ClN3O
